US08957062B2
Step E: benzyl 4-[-2-(2-hydroxyethyl)cyclopropyl]piperidine-1-carboxylate
Cis tert-butyl 4-[2-(2-hydroxyethyl)cyclopropyl]piperidine-1-carboxylate (2.0 g, 7.44 mmol) was treated with 4M HCl in dioxane (200 mL) at room temperature for 2 hours. The mixture was concentrated under reduced pressure and the residue taken up in 200 mL DCM. To this solution was added TEA (10.0 mL, 7.64 mmol) followed by benzylchloroformate (1.30 g, 7.64 mmol) and the resulting mixture stirred at room temperature overnight. The mixture was washed with 1N aqueous HCl (75 mL), followed by saturated aqueous sodium bicarbonate (75 mL) and brine (75 mL). The organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via Biotage (40M+ silica gel) eluting with a gradient of 0-80% ethyl acetate to afford the title compound as a viscous oil.

reactant | Cis tert-butyl 4-[2-(2-hydroxyethyl)cyclopropyl]piperidine-1-carboxylate | 7.44 mmol, 2.0 g | OCC[C@@H]1[C@@H](C1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H27NO3
reactant | HCl | 4M | Cl | ClH
reactant | benzylchloroformate | 7.64 mmol, 1.30 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | benzyl 4-[-2-(2-hydroxyethyl)cyclopropyl]piperidine-1-carboxylate | OCCC1C(C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H25NO3
